US04758578
3-(3-Hydroxyphenyl)-1,2,4-thiadiazole-5-sulfonamide
Pyridine hydrochloride (160 g) was preheated to 205° and 8 g of finely ground 3-(3-methoxyphenyl)-1,2,4-thiadiazole-5-sulfonamide was added. Said temperature was maintained for 15 minutes. The mixture was then poured into ice water (1000 ml) and extracted with ethyl acetate (3×500 ml), and the extracts were washed with saturated sodium chloride solution (500 ml) and dried over anhydrous magnesium sulfate. Concentration gave 5.3 g of product. Flash chromatography using 10% ethyl acetate/dichloromethane as an eluent gave 2.3 g of product. This was combined with 0.7 g of product from a previous reaction and recrystallized in hot water to give 2.2 g of solid, m.p. 191°-192°.

reactant | Pyridine hydrochloride | 160 g | Cl.N1=CC=CC=C1
reactant | 3-(3-methoxyphenyl)-1,2,4-thiadiazole-5-sulfonamide | COC=1C=C(C=CC1)C1=NSC(=N1)S(=O)(=O)N | C9H9N3O3S2
product | 3-(3-Hydroxyphenyl)-1,2,4-thiadiazole-5-sulfonamide | 5.3 g | OC=1C=C(C=CC1)C1=NSC(=N1)S(=O)(=O)N | C8H7N3O3S2
